US06251936B1
Acetic acid 4-(9-bromo-2-chloromethyl-3-methyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester
To a cold (ice bath) solution of acetic acid 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester (4.00 g, 9.4 mmol) in anhydrous methylene chloride (41 mL) was added sulfuryl chloride (0.76 mL, 10.3 mmol) dropwise over a period of 10 minutes. After stirring 1 hour in the ice bath the reaction was quenched with water (100 mL) and diluted with diethyl ether. After filtering, the layers were separated. Silica gel was added to the organic layer and the solvents were removed. The adsorbate was flash chromatographed (gradient 90/10-80/20 petroleum ether/ethyl acetate) to give the title compound as a white solid (2.57 g, 59%): NMR (DMSO-d6); δ8.23 (d, J=8 Hz, 1H), 7.71 (dd, J=8,1 Hz, 1H), 7.55-7.43 (m, 4H), 7.33-7.30 (m, 2H), 5.09 (s, 2H), 2.34 (s, 3H), 1.66 (s, 3H).

reactant | acetic acid 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester | 9.4 mmol, 4.00 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC=C(C=C2)OC(C)=O | C22H17BrO2S
reactant | sulfuryl chloride | 10.3 mmol, 0.76 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 41 mL | C(Cl)Cl | CH2Cl2
product | Acetic acid 4-(9-bromo-2-chloromethyl-3-methyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester | 2.57 g, 59% | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)CCl)C2=CC=C(C=C2)OC(C)=O | C22H16BrClO2S
